US06710055B2
a) 1-Methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide
Prepared analogously to Example 25c from N-(4-cyanophenyl)glycine and 3-amino-4-methylaminobenzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide. Yield: 61% of theory; Rf value: 0.62 (silica gel; dichloromethane/methanol=19:1).

reactant | N-(4-cyanophenyl)glycine | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
reactant | 3-amino-4-methylaminobenzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide | N1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CCC(=O)OCC | C18H22N4O3
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide | Yield: 61% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C27H26N6O3
